datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCS(=O)[O:21][H:20].O=[N+]([O-])c1ccc([O-:10])c(C[NH+]2CCOCCOCCOCCOCC2)c1>>CCS(=O)[O-:21].O=[N+]([O-])c1ccc([O:10][H:20])c(C[NH+]2CCOCCOCCOCCOCC2)c1 10=20;20,21=21",
"CC(C)(C)[NH2+:21][H:20].C[N:10](C)CC(=O)[O-]>>CC(C)(C)[NH2:21].C[N+:10](C)(CC(=O)[O-])[H:20] 10=20;20,21=21",
"CC(=O)Nc1ccc[n+:21]([H:20])c1.CCCCCC/C=N/[O-:10]>>CC(=O)Nc1ccc[n:21]c1.CCCCCC/C=N/[O:10][H:20] 10=20;20,21=21",
"Clc1ccc[n:10]c1.O=C([O-])c1ccc2sc(Cn3cc[n+:21]([H:20])c3)cc2c1>>Clc1ccc[n+:10]([H:20])c1.O=C([O-])c1ccc2sc(Cn3cc[n:21]c3)cc2c1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].C[NH2+]CC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C[NH2+]CC[NH2+:10][H:20] 10=20;20,21=21",
"C1CCC([NH+:21](C2CCCCO2)[H:20])OC1.NS(=O)(=O)c1cccc(C[NH2:10])c1>>C1CCC([NH:21]C2CCCCO2)OC1.NS(=O)(=O)c1cccc(C[NH2+:10][H:20])c1 10=20;20,21=21",
"C=C[C@H]1C[N+:21]2([H:20])CC[C@@H]1CC2C(=O)[O-].N#Cc1ccc([N-:10]S(=O)(=O)c2ccccc2)cc1>>C=C[C@H]1C[N:21]2CC[C@@H]1CC2C(=O)[O-].N#Cc1ccc([N:10](S(=O)(=O)c2ccccc2)[H:20])cc1 10=20;20,21=21",
"CC1CC[NH:10]C(C)(C)C1.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CC1CC[NH+:10]([H:20])C(C)(C)C1.C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CC(C)(C)[N+:21](C)(c1ccccc1)[H:20].CCC[NH:10]C(C)C(=O)Nc1ccccc1C>>CC(C)(C)[N:21](C)c1ccccc1.CCC[NH+:10](C(C)C(=O)Nc1ccccc1C)[H:20] 10=20;20,21=21",
"Cc1cc(C(=O)[O-:10])ccc1Br.N#CC[N+:21]1([H:20])CCOCC1>>Cc1cc(C(=O)[O:10][H:20])ccc1Br.N#CC[N:21]1CCOCC1 10=20;20,21=21",
"C[N:10](C)CC(CSCc1ccccc1)SCc1ccccc1.O[C@H]1CCC[C@@H]([NH2+:21][H:20])C1>>C[N+:10](C)(CC(CSCc1ccccc1)SCc1ccccc1)[H:20].O[C@H]1CCC[C@@H]([NH2:21])C1 10=20;20,21=21",
"Cc1cc(C)cc([O-:10])c1.c1nc(Cc2c[nH]c(Cc3nc(Cc4cnc[nH]4)c[nH]3)[n+:21]2[H:20])c[nH]1>>Cc1cc(C)cc([O:10][H:20])c1.c1nc(Cc2c[nH]c(Cc3nc(Cc4cnc[nH]4)c[nH]3)[n:21]2)c[nH]1 10=20;20,21=21",
"C1C[NH+:21]1[H:20].O=C(CCc1ccsc1)[O-:10]>>C1C[NH:21]1.O=C(CCc1ccsc1)[O:10][H:20] 10=20;20,21=21",
"Cc1ccccc1C(=S)[N-:10]c1ccccc1.NC(=O)C(CCC(=O)[O:21][H:20])c1ccccc1>>Cc1ccccc1C(=S)[N:10](c1ccccc1)[H:20].NC(=O)C(CCC(=O)[O-:21])c1ccccc1 10=20;20,21=21",
"C1CSCC[NH:10]CCN1.N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>C1CSCC[NH+:10]([H:20])CCN1.N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"CC(C)(CN)[S-:10].Ic1ccc(-c2nnn[n:21]2[H:20])cc1>>CC(C)(CN)[S:10][H:20].Ic1ccc(-c2nnn[n-:21]2)cc1 10=20;20,21=21",
"CCOCCn1c(CN2CC[NH+](CCCCn3cc(C(=O)O)cn3)CC2)[n:10]c2ccccc21.CSC(=S)NCC(=O)[O:21][H:20]>>CCOCCn1c(CN2CC[NH+](CCCCn3cc(C(=O)O)cn3)CC2)[n+:10]([H:20])c2ccccc21.CSC(=S)NCC(=O)[O-:21] 10=20;20,21=21",
"CC[NH:10]CC(=O)[O-].C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CC[NH+:10](CC(=O)[O-])[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"Cc1ccccc1-n1nn[n+:21]([H:20])c1N.NC(c1ccccc1)=[S:10]>>Cc1ccccc1-n1nn[n:21]c1N.NC(c1ccccc1)=[S+:10][H:20] 10=20;20,21=21",
"Cc1c[n+](C)c([O-])[n+:21]([H:20])c1N.Cc1cc([O-:10])n(-c2ccccc2)n1>>Cc1c[n+](C)c([O-])[n:21]c1N.Cc1cc([O:10][H:20])n(-c2ccccc2)n1 10=20;20,21=21",
"C[n+]1cccc2cc([O-:10])ccc21.O=C1NC(=O)[C@H](CSSC[C@@H]2NC(=O)[N:21]([H:20])C2=O)N1>>C[n+]1cccc2cc([O:10][H:20])ccc21.O=C1NC(=O)[C@H](CSSC[C@@H]2NC(=O)[N-:21]C2=O)N1 10=20;20,21=21",
"CC(=O)N1CC[NH:10]CC1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC(=O)N1CC[NH+:10]([H:20])CC1.O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CC(C(=O)[O-])[S-:10].N[C@H]1CCCC[C@@H]1[NH2+:21][H:20]>>CC(C(=O)[O-])[S:10][H:20].N[C@H]1CCCC[C@@H]1[NH2:21] 10=20;20,21=21",
"COc1ccc([Se][O-:10])c([N+](=O)[O-])c1.Nc1ccc2c(c1)cc1ccccc1[n+:21]2[H:20]>>COc1ccc([Se][O:10][H:20])c([N+](=O)[O-])c1.Nc1ccc2c(c1)cc1ccccc1[n:21]2 10=20;20,21=21",
"CC1CCC[NH:10]C1.O=C(c1csc2ccccc12)[O:21][H:20]>>CC1CCC[NH+:10]([H:20])C1.O=C(c1csc2ccccc12)[O-:21] 10=20;20,21=21",
"NC(Cc1nc[n:21]([H:20])c1I)C(=O)[O-].O=S(=O)(c1ccc(Br)cc1)[N-:10]Cc1ccccc1>>NC(Cc1nc[n-:21]c1I)C(=O)[O-].O=S(=O)(c1ccc(Br)cc1)[N:10](Cc1ccccc1)[H:20] 10=20;20,21=21",
"CC(C)C[NH:10]CC(=O)[O-].CCC#CC#CC#CC(=O)[O:21][H:20]>>CC(C)C[NH+:10](CC(=O)[O-])[H:20].CCC#CC#CC#CC(=O)[O-:21] 10=20;20,21=21",
"CC(C)N(C(=S)[S:21][H:20])C(C)C.NC(=O)NOCCC([NH3+])C(=O)[O-:10]>>CC(C)N(C(=S)[S-:21])C(C)C.NC(=O)NOCCC([NH3+])C(=O)[O:10][H:20] 10=20;20,21=21",
"CO[C@H]1C=CC2=CC[N+:21]3([H:20])CC[C@H](CO)C(=CCO)[C@]23C1.O=C1[C@H]2CCC[C@H]2C(=O)[N-:10]1>>CO[C@H]1C=CC2=CC[N:21]3CC[C@H](CO)C(=CCO)[C@]23C1.O=C1[C@H]2CCC[C@H]2C(=O)[N:10]1[H:20] 10=20;20,21=21",
"CC(C)(C)C[NH+:21](c1ccccc1)[H:20].O=S(=O)([O-])c1cc[n:10]cc1>>CC(C)(C)C[NH:21]c1ccccc1.O=S(=O)([O-])c1cc[n+:10]([H:20])cc1 10=20;20,21=21",
"CC1=C/C(=[O+:21]/[H:20])N(C)C=N1.c1cnc[n:10]c1>>CC1=CC(=[O:21])N(C)C=N1.c1cnc[n+:10]([H:20])c1 10=20;20,21=21",
"Cc1cc([N+](=O)[O-])cc2c1nnn2[O:21][H:20].O=C([O-])CCC#CC#CC[NH2:10]>>Cc1cc([N+](=O)[O-])cc2c1nnn2[O-:21].O=C([O-])CCC#CC#CC[NH2+:10][H:20] 10=20;20,21=21",
"CN(C)CCCNc1cc[n+:21]([H:20])c2ccccc12.CN[NH:10]C>>CN(C)CCCNc1cc[n:21]c2ccccc12.CN[NH+:10](C)[H:20] 10=20;20,21=21",
